US07271263B2
Production of 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)aniline
In a reactor were placed 0.57 g (1.9 m moles) of 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)acetanilide, 10 ml of methanol and 5 ml of 6 N hydrochloric acid, followed by refluxing for 1 hour with heating. After the completion of the reaction, the reaction mixture was made alkaline with sodium hydroxide, after which extraction with ethyl acetate was made. The ethyl acetate layer was concentrated. The residue was subjected to gas chromatography. As a result, formation of 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)aniline was confirmed. Conversion: 100% (in terms of total area ratio in gas chromatography)

reactant | 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)acetanilide | 0.57 g | COC1=NC(=NC(=C1)OC)C(=O)CC(=O)NC1=CC=CC=C1 | C15H15N3O4
reactant | hydrochloric acid | 6 N, 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(4,6-dimethoxypyrimidine-2-ylcarbonyl)aniline | COC1=NC(=NC(=C1)OC)C(=O)C1=C(N)C=CC=C1 | C13H13N3O3
